US07709647B2
[1-Benzyl-6-(2-methyl-2H-tetrazol-5-yl)-1,2,3,4-tetrahydroquinolin-3-yl]-carbamic acid cyclohexyl ester
To a stirred solution of [1-benzyl-6-(2H-tetrazol-5-yl)-1,2,3,4-tetrahydroquinolin-3-yl]-carbamic acid cyclohexyl ester (61 mg, 0.14 mmol), prepared as described in Example 53, in CH3CN (0.5 mL)-DMF (0.5 mL)-THF (0.5 mL) at RT was added Cs2CO3 (63.4 mg, 0.19 mmol), followed by iodomethane (7.8 μL, 0.126 mmol). The reaction mixture was stirred at RT for 16 h and then diluted with H2O, extracted with EtOAc (10 mL×3). The organic extracts were washed saturated aqueous NaCl, dried Na2SO4), and concentrated. The resulting residue was purified using preparative HPLC [YMC S5 ODS (20×100 mm); Eluted with 50% to 90% B, 8 min gradient and 7 min hold. (A=90% H2O-10% MeOH and B=10% H2O-90% MeOH); Flow rate at 20 mL/min. UV detection at 220 nm] to give the title compound (regioisomer A, 35 mg, 56%) as a white solid. HPLC (method B): 98% pure, retention time=7.9 min. MS (ES): m/z 447 [M+H]+.

reactant | [1-benzyl-6-(2H-tetrazol-5-yl)-1,2,3,4-tetrahydroquinolin-3-yl]-carbamic acid cyclohexyl ester | 0.14 mmol, 61 mg | C1(CCCCC1)OC(NC1CN(C2=CC=C(C=C2C1)C=1N=NNN1)CC1=CC=CC=C1)=O | C24H28N6O2
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | Cs2CO3 | 0.19 mmol, 63.4 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodomethane | 0.126 mmol, 7.8 μL | IC | CH3I
solvent | CH3CN | 0.5 mL | CC#N | C2H3N
solvent | H2O | O | H2O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | [1-Benzyl-6-(2-methyl-2H-tetrazol-5-yl)-1,2,3,4-tetrahydroquinolin-3-yl]-carbamic acid cyclohexyl ester | C1(CCCCC1)OC(NC1CN(C2=CC=C(C=C2C1)C=1N=NN(N1)C)CC1=CC=CC=C1)=O | C25H30N6O2
